US07807671B2
To the compound tert-butyl 4-(2-oxo-2-phenylethyl)piperazine-1-carboxylate (18 g) taken in round bottom flask, Bredereck's reagent (1 1.33 g) was added very slowly under nitrogen atmosphere. The reaction mixture was stirred at 55° C. for over-night. The progress of reaction was monitored by TLC. After consumption of starting material, diethyl ether was added to the reaction mixture. The resulting solid was filtered and dried under reduced pressure to afford tert-butyl 4-(1-(dimethylamino)-3-oxo-3-phenylprop-1-en-2-yl)piperazine-1-carboxylate as pure product.

reactant | tert-butyl 4-(2-oxo-2-phenylethyl)piperazine-1-carboxylate | 18 g | O=C(CN1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H24N2O3
reactant | Bredereck's reagent | 1.33 g | CC(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | tert-butyl 4-(1-(dimethylamino)-3-oxo-3-phenylprop-1-en-2-yl)piperazine-1-carboxylate | CN(C=C(C(C1=CC=CC=C1)=O)N1CCN(CC1)C(=O)OC(C)(C)C)C | C20H29N3O3
